US07833644B2
17.772 Parts by weight of 2,3,5,6-tetraaminopyridine trihydrochloride monohydrate was dissolved in 100 parts by weight of water deaerated with nitrogen. 13.208 Parts by weight of 2,5-dihydroxyterephthalic acid was dissolved in 137 parts by weight of a 1M sodium hydroxide aqueous solution, followed by deaeration with nitrogen. The 2,3,5,6-tetraaminopyridine trihydrochloride monohydrate aqueous solution was dropwise added to the 2,5-dihydroxyterephthalic acid disodium salt aqueous solution over 10 minutes. Then, 24.3 parts by weight of polyphosphoric acid, 35 parts by weight of water deaerated with nitrogen and 1 part by weight of acetic acid were added, and the resultant salt was recovered by filtering and dispersed in, and mixed with, 3,000 parts by weight of water deaerated with nitrogen, followed by re-filtering. Procedures of the above dispersing/mixing and filtering were repeated 3 times to give 2,3,5,6-tetraaminopyridine/2,5-dihydroxyterephthalaic acid salt.

reactant | 2,3,5,6-tetraaminopyridine trihydrochloride monohydrate | O.Cl.Cl.Cl.NC1=NC(=C(C=C1N)N)N
reactant | 2,5-dihydroxyterephthalic acid | OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)O | C8H6O6
reactant | 2,5-dihydroxyterephthalic acid disodium salt | [Na+].[Na+].OC1=C(C(=O)[O-])C=C(C(=C1)C(=O)[O-])O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | sodium hydroxide | 1M | [OH-].[Na+]
product | 2,3,5,6-tetraaminopyridine | NC1=NC(=C(C=C1N)N)N | C5H9N5
